US04672066
4-(4-Acetyl-3-hydroxy-2-propylphenoxy)butanoic acid was allowed to react with 3-pyridine propanamine according to procedure A and the product was purified by chromatography on silica gel to give 4-(4-acetyl-3-hydroxy-2-propylphenoxy)-N-[3-(3-pyridinyl)propyl]butanamide, the title compound, mp 97°-98° (from methylene chloride-ether) in 88% yield.

reactant | 4-(4-Acetyl-3-hydroxy-2-propylphenoxy)butanoic acid | C(C)(=O)C1=C(C(=C(OCCCC(=O)O)C=C1)CCC)O | C15H20O5
reactant | 3-pyridine propanamine | N1=CC(=CC=C1)CCCN | C8H12N2
product | 4-(4-acetyl-3-hydroxy-2-propylphenoxy)-N-[3-(3-pyridinyl)propyl]butanamide | C(C)(=O)C1=C(C(=C(OCCCC(=O)NCCCC=2C=NC=CC2)C=C1)CCC)O | C23H30N2O4
